US06479608B1
1-t-Butyl-3,5-diethyl-3,5-dimethyl-piperazin-2-on (250)
In analogy to Example B23, 1-ethyl-1-methyl-2-t-butylaminoethylamin, methylethylketon, chloroform and NaOH are reacted to give the raw title compound (100%) as an yellow oil.

reactant | 1-ethyl-1-methyl-2-t-butylaminoethylamin | C(C)C(CNC(C)(C)C)(C)N | C9H22N2
reactant | methylethylketon | CC(=O)CC | C4H8O
reactant | NaOH | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-t-Butyl-3,5-diethyl-3,5-dimethyl-piperazin-2-on | 100% | C(C)(C)(C)N1C(C(NC(C1)(C)CC)(C)CC)=O | C14H28N2O
